US06147106
(k) Preparation of 3,5-Diisopropylpyrrol-2-carboxaldehyde
The procedure was the same as the one for the preparation of 3,5-diethylpyrrol-2-carboxaldehyde except starting with 2,6-dimethyl-3,5-heptanedione.

reactant | 3,5-diethylpyrrol-2-carboxaldehyde | C(C)C1=C(NC(=C1)CC)C=O | C9H13NO
reactant | 2,6-dimethyl-3,5-heptanedione | CC(C)C(CC(C(C)C)=O)=O | C9H16O2
product | 3,5-Diisopropylpyrrol-2-carboxaldehyde | C(C)(C)C1=C(NC(=C1)C(C)C)C=O | C11H17NO
